US04461896
(±)-1,2,3,4-Tetrahydro-2-quinolinecarboxylic Acid Hydrochloride
2-Quinolinecarboxylic acid (30 g), glacial acetic acid (500 ml), and PtO2 (0.9 g) were combined and hydrogenated at 50°-58° for 45 minutes. After cooling to room temperature, concentrated hydrochloric acid (35 ml) was added, the catalyst was filtered, and the filtrate evaporated in vacuo. The residue was dissolved in acetonitrile (200 ml) and the solution cooled overnight. The resulting product was filtered; yield 25 g, m.p. 122°-125°.

reactant | 2-Quinolinecarboxylic acid | 30 g | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | hydrochloric acid | 35 ml | Cl | ClH
catalyst | PtO2 | 0.9 g | O=[Pt]=O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | (±)-1,2,3,4-Tetrahydro-2-quinolinecarboxylic Acid Hydrochloride | Cl.N1C(CCC2=CC=CC=C12)C(=O)O | InChI=1S/C10H11NO2.ClH/c12-10(13)9-6-5-7-3-1-2-4-8(7)11-9;/h1-4,9,11H,5-6H2,(H,12,13);1H
